US07022707B2
2,6-Difluoro-4-(2-methyl-thiazol-4-ylmethoxy)-benzylalcohol:
This compound was prepared from 3,5-difluoro-4-hydroxymethyl-phenol and 4-chlormethyl-2-methylthiazol according to the procedure described in Example 179 to give the product as a colorless oil (369 mg, 73%); MS (ISP): 272.3 (M+H)+.

reactant | 3,5-difluoro-4-hydroxymethyl-phenol | FC=1C=C(C=C(C1CO)F)O | C7H6F2O2
reactant | 4-chlormethyl-2-methylthiazol | ClCC=1N=C(SC1)C | C5H6ClNS
product | 2,6-Difluoro-4-(2-methyl-thiazol-4-ylmethoxy)-benzylalcohol | 369 mg, 73% | FC1=C(CO)C(=CC(=C1)OCC=1N=C(SC1)C)F | C12H11F2NO2S
